US05264438
A mixture of 7-methoxy-3-[4-[4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-1,2,3,4-tetrahydroquinazoline-2,4-dione (0.2 g), 47% hydrobromic acid (2.6 ml) and acetic acid (6 ml) was refluxed for 28 hours. After cooling, the reaction mixture was diluted with ethanol and the precipitated crystals were collected. Recrystallization from ethanol afforded 7-hydroxy-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-1,2,3,4-tetrahydroquinazoline-2,4-dione hydrobromide (0.1 g).

reactant | 7-methoxy-3-[4-[4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-1,2,3,4-tetrahydroquinazoline-2,4-dione | 0.2 g | COC1=CC=C2C(N(C(NC2=C1)=O)CCCCN1CCC(=CC1)C1=CC=CC=C1)=O | C24H27N3O3
reactant | hydrobromic acid | 2.6 ml | Br | BrH
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | 7-hydroxy-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl]-1,2,3,4-tetrahydroquinazoline-2,4-dione hydrobromide | 0.1 g | Br.OC1=CC=C2C(N(C(NC2=C1)=O)CCCCN1CCC(=CC1)C1=CC=CC=C1)=O | InChI=1S/C23H25N3O3.BrH/c27-19-8-9-20-21(16-19)24-23(29)26(22(20)28)13-5-4-12-25-14-10-18(11-15-25)17-6-2-1-3-7-17;/h1-3,6-10,16,27H,4-5,11-15H2,(H,24,29);1H
